US07939524B2
a′) 2-Benzylamino-5-nitro-benzenesulfonamide
A mixture of 2-chloro-5-nitro-benzenesulfonamide (2.20 kg, 9.30 mol), benzylamine (1.5 L, 13.9 mol), triethylamine (2.5 L, 18.1 mol), and acetonitrile (22.0 L) were heated at 92° C. for 20 h. The mixture was then cooled to 40° C., and was then partially concentrated in vacuo. The residue was added to 0° C. water (22.0 L) and the resulting suspension was allowed to warm to 23° C. and stirred for 2 h. The suspension was filtered and the solid was then washed with water (5 L). The washed solid was suspended in absolute ethanol (11 L), and was then filtered and washed with absolute ethanol (5 L). The solid was further dried in vacuo at 45° C. to afford the desired product, 2-benzylamino-5-nitro-benzenesulfonamide (2.40 kg, 7.81 mol, 84%), as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ: 4.64 (2H, d, J=4.6 Hz), 6.81 (1H, d, J=9.4 Hz), 7.23-7.44 (6H, m), 7.77 (2H, bs), 8.11 (1H, dd, J1=9.4 Hz, J2=2.3 Hz), 8.49 (1H, d, J=3.1 Hz). LC-MS (ESI) calcd for C13H13N3O4S 307.06, found 308.2 [M+H+] (100%), 615.2 [2M+H+] (81%).

reactant | 2-chloro-5-nitro-benzenesulfonamide | 9.30 mol, 2.20 kg | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H5ClN2O4S
reactant | benzylamine | 13.9 mol, 1.5 L | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 18.1 mol, 2.5 L | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 22.0 L | C(C)#N | C2H3N
product | 2-benzylamino-5-nitro-benzenesulfonamide | 7.81 mol, 2.40 kg, 84% | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C13H13N3O4S
